Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
Atrial fibrillation  
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is a ___ y.o male with history of paroxysmal atrial 
fibrillation, ETOH abuse, CAD, HTN, type II DM, s/p ___ 
cancer, with several recent admissions for pAF, most recent 
hospitalization on ___ to ___, who was BIBA after his HCP 
called EMS as pt was intoxicated and confused. In the ED, pt 
initially with SBP 80/50 with HR 74, given 1 L NS. Subsequently 
with BP 119/65 and atrial fibrillation with rates in 120s. Given 
another 1L fluids and IV diltiazem ordered, but not given as pt 
self-converted to sinus rhythm with SBP 95/54.  
.  
Despite being in sinus rhythm and stable vitals, pt is being 
admitted for further management of his chronic paroxysmal atrial 
fibrillation.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
PAST MEDICAL HISTORY: Per review of OMR  
1. CARDIAC RISK FACTORS:: +Diabetes, +Dyslipidemia, 
+Hypertension  
2. CARDIAC HISTORY: CAD s/p MI x 4 (per pt 3 in 1 week)  
-CABG: n/a  
-PERCUTANEOUS CORONARY INTERVENTIONS: Coronary artery disease 
status post PCI x 2 in the past with a history of MI and 
angioplasty ___ years ago. His most recent cardiac 
catheterization was in ___ at ___ 
___ which revealed non-flow limiting three-vessel disease 
and no intervention was performed at that time.  
-PACING/ICD: Cardiac aflutter/a tach : SVT, specifically atrial 
tachycardia status post ablation in ___ with 
breakthrough atrial tachycardia and atrial flutter  
3. OTHER PAST MEDICAL HISTORY:  
DM type II c/b neuropathy  
PVD -- sees Dr. ___  
___ Ca -- s/p partial colectomy ___, no rad or chemo; on ___  
yr follow-up schedule now -- due ___.  
Neuropathy -- progressing to R arm now; legs unchanged, uses  
Spinal Stenosis -- MRI done ___, no emergent issues, but  
some retrolisthesis of L4-5.  
 
Social History:
___
Family History:
no family hx of heart disease. Both parents died at ___ of "old 
age."
 
Physical Exam:
Per admission note:
VS T 97.9 BP 112/67 HR 60 RR 18 94% RA  
Gen: Sleeping with blankets over his head, arousable, 
dishevelled  
HEENT-PERRLA, EOMI, anicteric, MMM  
neck-no JVP, no LAD  
chest-CTA b/l  
heart-Normal s1, s2, irregular, no m/r/g  
abd- +BS, soft, NT, ND  
Ext-No c/c/e 2+pulses  
.  

 
Pertinent Results:
___ 11:41PM   WBC-7.3 RBC-3.27* HGB-11.0* HCT-31.4* MCV-96 
MCH-33.5* MCHC-34.9 RDW-14.9
___ 11:41PM   NEUTS-41* BANDS-0 LYMPHS-49* MONOS-4 EOS-2 
BASOS-0 ATYPS-4* ___ MYELOS-0
___ 11:41PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
.
___ 11:41PM   GLUCOSE-101 UREA N-12 CREAT-0.6 SODIUM-134 
POTASSIUM-3.3 CHLORIDE-99 TOTAL CO2-23 ANION GAP-15
.
___ 01:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG\
.
___ 11:41PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
.
 
Brief Hospital Course:
This is a ___ year old male with a history of ETOH abuse, pAF, 
CAD, HTN, type II DM who presents intoxicated in atrial 
fibrillation.  
.  
# RHYTHM: Patient was admitted for paroxysmal a-fib which seems 
to occur primarily when he is intoxicated.  On the floor he was 
NSR with occasional PACs.  Patient does not have palpitations 
with a-fib. We continued home regimen of Toprolol XL and 
Diltiazem long acting, and we encourage ETOH cessation  
.  
# CORONARIES: Coronary artery disease status post PCI x 2 in the 
past with a history of MI and angioplasty ___ years ago. His most 
recent cardiac catheterization was in ___ at ___ 
___ which revealed non-flow limiting 
three-vessel disease and no intervention was performed at that 
time.  Patient remained chest pain free while in house.  Cont 
ASA, BB, plavix,statin  
.  
# PUMP: Preserved EF per records. Euvolemic by exam.  No issues 
while in house. 
.  
#ETOH abuse: Appears long-standing per review of OMR and no 
history of withdrawl.  Patient was given thiamine and folate.  
No benzos needed and patient was AOx3 and not acting intoxicated 
when discharged.    
.  
#DM: Patient confirms that he take 70/30 14 AM and 4 ___ units .  
Cont home insulin. 
.  
# Neuropathy: Continue Cymbalta
.
FEN: cardiac, diabetic diet  
 
Medications on Admission:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
3. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr  
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1)  

Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1)  

Capsule, Sustained Release PO Every evening  
7. Insulin 70/30 14 and 4  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
3. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Insulin NPH & Regular Human 100 unit/mL (70-30) Cartridge 
Sig: Fourteen (14) units Subcutaneous QAM.  
8. Insulin NPH & Regular Human 100 unit/mL (70-30) Cartridge 
Sig: Four (4) units Subcutaneous QPM.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Atrial fibrillation

Secondary:
EtOH abuse
Diabetes
Dyslipidemia
Hypertension  

 
Discharge Condition:
good, VSS, on room air

 
Discharge Instructions:
Please stop smoking. Information was given to you on admission 
regarding smoking cessation. Please reduce your alcohol intake - 
you can call your doctor for help with this.

You came to the hospital for a fast and irregular heart rate 
called atrial fibrillation.  We monitored your heart rate and it 
converted back to a normal rhythm and rate.

Continue to take your medications as prescribed. You should stop 
drinking alcohol. It is likely the cause of your rapid heart 
rate.

Call your doctor or return to the ED for chest pain, shortness 
of breath, palpitations, dizzyness or lightheadedness, 
fevers/chills, nausea, vomitting, diarrhea, or other concerns.
 
Followup Instructions:
___